US08877782B2
b) 6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide
To a solution of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (98.5 mg, 0.3 mmol) in DMF (1.5 mL) were added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (106 mg, 0.33 mmol), N,N-diisopropyl ethyl amine (257 μL, 1.5 mmol) and isopropylamine (28.3 μL, 0.33 mmol). The resulting reaction mixture was stirred overnight at room temperature. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 0:100) afforded the title compound 57 mg, 51%) as an off white solid. MS: m/e=370.1 [M+H]+.

reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.3 mmol, 98.5 mg | FC=1C=C(C=CC1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13FN2O4
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.33 mmol, 106 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 1.5 mmol, 257 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isopropylamine | 0.33 mmol, 28.3 μL | C(C)(C)N | C3H9N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide | 57 mg, 51% | FC=1C=C(C=CC1)C1=NOC(=C1COC1=NC=C(C(=O)NC(C)C)C=C1)C | C20H20FN3O3
